US08703978B2
Methyl 2-(4-diethylaminophenyl)-2-phenyl-6-(4′-pentylbiphenyl-4-yl)-2H-naphtho[1,2-b]pyran-5-carboxylate
A solution containing methyl 2-(4-diethylamino-phenyl)-2-phenyl-6-trifluoromethanesulfonyloxy-2H-naphtho[1,2-b]pyran-5-carboxylate (0.90 g, 1.47 mmol), 4′-pentyl-4-biphenylboronic acid (0.39 g. 1.47 mmol), K2CO3 (0.30 g), PhMe (30 mL), ethanol (30 mL) and degassed for 1 h. Pd(PPh3)4 (0.085 g, 5% mol) was added and the reaction mixture was heated at reflux for 16 hrs. The reaction mixture was poured into water (100 mL), extracted with DCM (4×50 mL), dried (MgSO4) and the solvent removed under reduced pressure. The residue was chromatographed on silica using DCM (20% hexanes) and recrystallised from acetone-MeOH to give a pale blue powder (2.3 g, 30%) mp: 177-178° C.

reactant | methyl 2-(4-diethylamino-phenyl)-2-phenyl-6-trifluoromethanesulfonyloxy-2H-naphtho[1,2-b]pyran-5-carboxylate | 1.47 mmol, 0.90 g | C(C)N(C1=CC=C(C=C1)C1(C=CC2=C(O1)C1=CC=CC=C1C(=C2C(=O)OC)OS(=O)(=O)C(F)(F)F)C2=CC=CC=C2)CC | C32H28F3NO6S
reactant | 4′-pentyl-4-biphenylboronic acid | 1.47 mmol, 0.39 g | C(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)B(O)O | C17H21BO2
reactant | K2CO3 | 0.30 g | C(=O)([O-])[O-].[K+].[K+]
reactant | PhMe | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | Methyl 2-(4-diethylaminophenyl)-2-phenyl-6-(4′-pentylbiphenyl-4-yl)-2H-naphtho[1,2-b]pyran-5-carboxylate | 2.3 g, 30% | C(C)N(C1=CC=C(C=C1)C1(C=CC2=C(O1)C1=CC=CC=C1C(=C2C(=O)OC)C2=CC=C(C=C2)C2=CC=C(C=C2)CCCCC)C2=CC=CC=C2)CC | C48H47NO3
